US09340556B2
A mixture of 5-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydropyridine-2-carboxylic acid (1.21 g, 4.18 mmol), HATU (1.908 g, 5.02 mmol), diisopropylethyl amine (1.5 ml, 8.59 mmol) in N,N-dimethylformamide (15.0 ml) was stirred at room temperature for 30 min. at which time 2-(pyrrolidin-1-yl)ethanamine (0.58 ml, 4.61 mmol) was added and the reaction was allowed to stir for 3 h. The reaction was concentrated under vacuum, the residue was triturated with dichloromethane. The solid material was filtered and further washed with dichloromethane. The supernatant was collected, concentrated under reduced pressure and the residue was purified on silica gel eluting with methanol/dichloromethane/ammonium hydroxide. The fractions containing the desired product were concentrated, the residue was dissolved in dichloromethane, and washed with water. The organic phase was dried with anhydrous sodium sulfate, filtered, and concentrated to give 5-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-N-(2-(pyrrolidin-1-yl)ethyl)-1,4-dihydropyridine-2-carboxamide (1.32 g, 3.42 mmol, 82% yield) as nearly white solid. LCMS: (M+H)+: 386.2

reactant | 5-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydropyridine-2-carboxylic acid | 4.18 mmol, 1.21 g | COC1=CC=C(COC=2C(C=C(N(C2)C)C(=O)O)=O)C=C1 | C15H15NO5
reactant | HATU | 5.02 mmol, 1.908 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 8.59 mmol, 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(pyrrolidin-1-yl)ethanamine | 4.61 mmol, 0.58 ml | N1(CCCC1)CCN | C6H14N2
solvent | N,N-dimethylformamide | 15.0 ml | CN(C=O)C | C3H7NO
product | 5-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-N-(2-(pyrrolidin-1-yl)ethyl)-1,4-dihydropyridine-2-carboxamide | 3.42 mmol, 1.32 g, 82% yield | COC1=CC=C(COC=2C(C=C(N(C2)C)C(=O)NCCN2CCCC2)=O)C=C1 | C21H27N3O4
